********************* HSPICE FA GATES MODELING **********************
*
*   Mohammad Khoshroo - 810102441 
*   Spring 2026
*   AVLSI Course - by Dr. Vahdat
*   Thechnolegy - crn90g_2d5_lk_v1d2p1.l (90nm)
*   Standard MOSFET Model Name : nch , pch
*   FA FUNCTION-CHECK
*   TEMP(℃) 25
*   CORNER TT
*
**************************** PARAMETERS *****************************

.OPTION NOMOD
.LIB "../../utils/crn90g_2d5_lk_v1d2p1.l" TT
.INC "../full_adder.inc"
.VEC "input.vec"

.PARAM Vdd_val = 1                  $ supply-1 voltage
.PARAM Vss_val = 0                  $ supply-0 voltage
.PARAM beta = 2                     $ un/up
.PARAM L = 180n                     $ Channel length
.PARAM Wn_min = 1u                  $ Minimum Transistor width for n-types
.PARAM Wp_min = 'beta * Wn_min'     $ Minimum Transistor width for p-types


****************************** CIRCUIT ******************************

Xfull_adder A B Cin S Cout Vdd Vss FA     $ FA Under TEST/SIMULATION

************************* SIMULATION SETTING ************************

* Supplys Voltage Node
Vdd Vdd 0 DC 'Vdd_val'
Vss Vss 0 DC 'Vss_val'

.TRAN 100p 16n
.TEMP 25

*************************** OUTPUT SETTING **************************

.OPTION POST= 2 PROBE RUNLVL=6
.PROBE V(A) V(B) V(Cin) V(S) V(Cout)

.END